US05731340
8.2 g of 2,6-dimethoxy-4-methylaniline are dissolved in 100 ml of diethyl ether at 0° C. under an inert atmosphere, 5.96 g of triethylamine are added to the reaction mixture and then 6.51 g of isovaleryl chloride are added dropwise, while maintaining the temperature at 0° C. The mixture is left at room temperature for 30 minutes and is then poured into 250 ml of water. The aqueous phase is extracted with ethyl acetate after separation by settling of the ethereal phase. The organic phases are combined and washed with water, then dried over anhydrous sodium sulphate and evaporated to dryness. The white crystals of N-(2,6-dimethoxy-4-methylphenyl)isovaleramide obtained are washed with diisopropyl ether; M.p.=139° C., Yield: 92%.

reactant | 2,6-dimethoxy-4-methylaniline | 8.2 g | COC1=C(N)C(=CC(=C1)C)OC | C9H13NO2
reactant | triethylamine | 5.96 g | C(C)N(CC)CC | C6H15N
reactant | isovaleryl chloride | 6.51 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | water | 250 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | N-(2,6-dimethoxy-4-methylphenyl)isovaleramide | Yield: 92% | COC1=C(C(=CC(=C1)C)OC)NC(CC(C)C)=O | C14H21NO3
